US05496930
16. Preparation of 6-O-benzoyl-3-O-chloroacetyl-galactal
1.0 g (4 mmol) of 6-O-benzoylgalactal is taken up in about 20-25 ml of DME and 10-15 ml of vinyl chloroacetate and stirred with 1 g of lipase from Pseudomonas spec. (lipase P, Amano) at room temperature for about 5-7 h. Filtering off the reusable enzyme, concentration of the solution in vacuo and chromatography on silica gel (ether/hexane 1:1) or crystallization result in 6-O-benzoyl-3-O-chloroacetyl-galactal in 80% yield (1050 mg).

reactant | 6-O-benzoylgalactal | 4 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@@H]([C@@H](C=CO1)O)O | C13H14O5
reactant | vinyl chloroacetate | 10-15 ml | ClCC(=O)OC=C | C4H5ClO2
solvent | DME | about 20-25 ml | COCCOC | C4H10O2
product | 6-O-benzoyl-3-O-chloroacetyl-galactal | 80% yield | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@@H]([C@@H](C=CO1)OC(CCl)=O)O | C15H15ClO6
